US04849136
A solution of 0.78 g of sodium carbonate and 2.55 g of sulfanilic acid in 55 ml of water was cooled to 0° C., and 6 ml of an aqueous solution containing 1.11 g of sodium nitrite was added. Further, 15 ml of cold 2N-HCl was added while maintaining the temperature in the range of 0° to 5° C., to form p-sulfophenyldiazonium chloride. Starch iodide paper was used in recognizing the end of reaction.

reactant | sodium carbonate | 0.78 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sulfanilic acid | 2.55 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | sodium nitrite | 1.11 g | N(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 55 ml | O | H2O
product | p-sulfophenyldiazonium chloride | [Cl-].S(=O)(=O)(O)C1=CC=C(C=C1)[N+]#N | InChI=1S/C6H4N2O3S.ClH/c7-8-5-1-3-6(4-2-5)12(9,10)11;/h1-4H;1H
